US05514680
A mixture of 2-acetamido-5-fluoro-3-nitrobenzotrifluoride (1.50 g, 5.64 mmol) in concentrated HCl (10 mL) was refluxed overnight and it was extracted by ethyl acetate (2×10 mL). The extract was dried over Mg2SO4, and evaporated to give 624 mg of 2-amino-5-fluoro-3-nitrobenzotrifluoride (50%). 1H NMR (CDCl3): δ6.547 (s, 2H), 7.570 (dd, 1H, J1 =2.7 Hz, J2 =5.7 Hz), 8.114 (dd, 1 H, J1 =2.7 Hz, J2 =5.7 Hz).

reactant | 2-acetamido-5-fluoro-3-nitrobenzotrifluoride | 5.64 mmol, 1.50 g | C(C)(=O)NC1=C(C=C(C=C1[N+](=O)[O-])F)C(F)(F)F | C9H6F4N2O3
solvent | HCl | 10 mL | Cl | ClH
product | 2-amino-5-fluoro-3-nitrobenzotrifluoride | 624 mg, 50% | NC1=C(C=C(C=C1[N+](=O)[O-])F)C(F)(F)F | C7H4F4N2O2
